US09328110B2
The general method described in Step 1 of Example 1 was used to react 4-chloro-3-nitroquinoline (21.8 g, 104 mmol), 2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propylamine (19.8 g, 114 mmol) and triethylamine (15.2 g, 150 mmol) in dichloromethane for 75 hours to provide [2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-(3-nitroquinolin-4-yl)amine (35.9 g) as a yellow solid that was used directly in the next step without further purification.

reactant | 4-chloro-3-nitroquinoline | 104 mmol, 21.8 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propylamine | 114 mmol, 19.8 g | CC(CN)(CC1(OCCO1)C)C | C9H19NO2
reactant | triethylamine | 150 mmol, 15.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | [2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-(3-nitroquinolin-4-yl)amine | 35.9 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(CC1(OCCO1)C)C | C18H23N3O4
